M865213445 n1 vinp ntail 0 nch W=2u L=0.18u
M413567865 vout vinn ntail 0 nch W=2u L=0.18u
M220920269 ntail vbias_n 0 0 nch W=1u L=0.5u
M627803670 vout n1 VDD VDD pch W=4u L=0.18u
M480260501 n1 n1 VDD VDD pch W=4u L=0.18u
VDD VDD 0 1.8
C605479372 vout 0 1p

